US06818203B2
a) 2-[N-(Ethyl)-N-(perfluorooctylsulfonyl)-amino]-acetic acid-N-(adamantyl)-amide
30.95 g (150 mmol) of N,N-dicyclohexylcarbodiimide is added at 0° C. to 15.12 g (100 mmol) of 1-aminoadamantane, 58.52 g (100 mmol) of N-(ethyl)N-(perfluorooctylsulfonyl)-aminoacetic acid and 11.51 g (100 mmol) of N-hydroxysuccinimide, dissolved in 300 ml of tetrahydrofuran. It is stirred for 2 hours at 0° C., then for 6 hours at room temperature. Precipitated urea is filtered out, the filtrate is evaporated to the dry state, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/acetone=30:1).

reactant | 1-aminoadamantane | 100 mmol | NC12CC3CC(CC(C1)C3)C2 | C10H17N
reactant | N-(ethyl)N-(perfluorooctylsulfonyl)-aminoacetic acid | 100 mmol, 58.52 g | C(C)N(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC(=O)O | C12H8F17NO4S
reactant | N-hydroxysuccinimide | 100 mmol, 11.51 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-[N-(Ethyl)-N-(perfluorooctylsulfonyl)-amino]-acetic acid-N-(adamantyl)-amide | C12(CC3CC(CC(C1)C3)C2)NC(CN(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC)=O | C22H23F17N2O3S
